US04996318
2-(1-Piperazinyl)-3-nitropyridine (24.50 g), ethanol (445 ml) and hydrochloric acid (1.2N, 44 ml) are combined and hydrogenated overnight at 40 psi initial pressure in a Parr Bomb, refilling when necessary. The mixture is filtered through celite, washed with ethanol, chloroform, ethanol and water. The organic solvents are removed with head and reduced pressure. The remaining material is partitioned between methylene chloride (3×250 ml) and sodium bicarbonate. The organic layers are combined, dried over potassium carbonate, filtered and concentrated under reduced pressure to give an oil which slowly solidified upon standing to give 3-amino-2-(1-piperazinyl)pyridine.

reactant | 2-(1-Piperazinyl)-3-nitropyridine | 24.50 g | N1(CCNCC1)C1=NC=CC=C1[N+](=O)[O-] | C9H12N4O2
reactant | hydrochloric acid | 1.2N, 44 ml | Cl | ClH
solvent | ethanol | 445 ml | C(C)O | C2H6O
product | 3-amino-2-(1-piperazinyl)pyridine | NC=1C(=NC=CC1)N1CCNCC1 | C9H14N4
